US07495001B2
C] 2-(3-Hydroxy-naphthalen-1-yloxy)-2-methyl-propionic acid ethyl ester
1.35 g (4.1 mmol) of 2-(3-methoxycarbonyloxy-naphthalen-1-yloxy)-2-methyl-propionic acid ethyl ester was dissolved in 30 ml of EtOH and cooled down to 5° C.; while stirring, 1.66 ml=1.45 g (4.5 mmol) of a solution of sodium ethoxide (21% in EtOH) was added and the reaction mixture then warmed up to ambient temperature. After 1 hour, it was poured into crashed ice/MeCl2, the pH was adjusted to 5-6 with AcOH (1N) and the reaction mixture was subsequently extracted twice with MeCl2; the organic phases were washed with water, dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (SiO2, gradient of MeCl2/MeOH) to finally give 0.95 g of the title compound as light brown oil.

reactant | 2-(3-methoxycarbonyloxy-naphthalen-1-yloxy)-2-methyl-propionic acid ethyl ester | 4.1 mmol, 1.35 g | C(C)OC(C(C)(C)OC1=CC(=CC2=CC=CC=C12)OC(=O)OC)=O | C18H20O6
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | AcOH | 1N | CC(=O)O | C2H4O2
solvent | EtOH | 30 ml | CCO | C2H6O
product | 2-(3-Hydroxy-naphthalen-1-yloxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC2=CC=CC=C12)O)=O | C16H18O4
